US07935699B2
To a solution of 3-Nitro-1H-pyrazole (1.00 g, 8.84 mmol) in anhydrous N,N-dimethylformamide (20 mL), a 60% dispersion of sodium hydride in mineral oil (390 mg, 9.73 mmol) was added while stirring under nitrogen. After the effervescence ceased and the mixture was stirred for additional 1 h, tert-butyl-bromoacetate (1.44 mL, 9.73 mmol) was added. The mixture was continued to stir under nitrogen for an additional 2 h. The solvent was removed in vacuo and purification by ISCO flash column chromatography (Teledyne Isco RediSep Flash Column 40 g; 0% ethyl acetate/hexanes to 50% ethyl acetate/hexanes, 30 min) afforded (3-nitro-pyrazol-1-yl)-acetic acid tert-butyl ester (1.55 g, 77%) as a white powder. H1-NMR (400 MHz, CDCl3) δ: 1.42 (9H, s), 4.86 (2H, s), 6.87 (1H, d, J=2.4 Hz), 7.54 (1H, d, J=2.3 Hz).

reactant | 3-Nitro-1H-pyrazole | 8.84 mmol, 1.00 g | [N+](=O)([O-])C1=NNC=C1 | C3H3N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyl-bromoacetate | 9.73 mmol, 1.44 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (3-nitro-pyrazol-1-yl)-acetic acid tert-butyl ester | 1.55 g, 77% | C(C)(C)(C)OC(CN1N=C(C=C1)[N+](=O)[O-])=O | C9H13N3O4
